US08003627B2
2-(4-Aminophenyl)ethanol (13.7 g, 0.1 mol) was dissolved in dioxane (120 ml). Triethylamine (10.1 g, 0.1 mol) was added followed by addition of Boc2O (21.8 g, 0.1 mol). The reaction mixture was stirred overnight. After evaporation under vacuum, the residue was dissolved in ethylacetate and washed with HCl (2N) and brine. The organic layer was dried over Na2SO4 and evaporated. Purification by flash chromatography afforded the tert-butyl 4-(2-hydroxyethyl)phenylcarbamate as a white solid (19 g, 80 mmol, 80%). To a stirred solution of this alcohol (1 eq) in dichloromethane, a solution of Dess-Martin periodane (1.2 eq from 15% wt solution) was added. The suspension was stirred for 4 h at room temperature. The resulting solution was poured into a vigorously stirred saturated solution of NaHCO3 and Na2S2O3 (1:1, 100 ml). The organic layer was separated and washed with brine and dried over anhydrous Na2SO4. This crude aldehyde 12 was used directly for further reaction.

reactant | 2-(4-Aminophenyl)ethanol | 0.1 mol, 13.7 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | Triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 0.1 mol, 21.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(2-hydroxyethyl)phenylcarbamate | 80 mmol, 19 g, 80% | OCCC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C13H19NO3
